US04472425
EXAMPLE 14: N-(2,4-dimethylthien-3-yl)-alanine-methylester
A mixture of 12.7 g (0.1 mol) 2,4-dimethyl-3-aminothiophene, 13.84 g (0.1 mol) K2CO3 and 16.7 g (0.1 mol) methyl 2-bromopropionate in 200 ml dimethylformamide are stirred over night at 80°. The mixture is cooled, filtered, evaporated, the residue dissolved in dichloromethane, washed with water, dried and evaporated to yield the title compound, m.p. 33°-34°.

reactant | 2,4-dimethyl-3-aminothiophene | 0.1 mol, 12.7 g | CC=1SC=C(C1N)C | C6H9NS
reactant | K2CO3 | 0.1 mol, 13.84 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl 2-bromopropionate | 0.1 mol, 16.7 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-(2,4-dimethylthien-3-yl)-alanine-methylester | COC([C@@H](NC1=C(SC=C1C)C)C)=O | C10H15NO2S
